US07884202B2
0.13 g (1.0 mmol) of adenine was weighed and placed in a 50 ml two-neck flask equipped with a magnetic rotor and the atmosphere in the flask was replaced with argon. The following materials were added thereinto: 2.0 ml of dimethyl sulfoxide, 2.0 ml of a 1N dimethyl sulfoxide solution of sulfuric acid, 1.0 ml of a 3.0 mol/l dimethyl sulfoxide solution of trifluoromethyl iodide, 0.2 ml of a 30% hydrogen peroxide aqueous solution and 0.3 ml of a 1.0 mol/l aqueous solution of iron (II) sulfate. The mixture was stirred at 40 to 50° C. for 20 minutes and then the resulting solution was cooled to room temperature. Formation of 8-trifluoromethyladenine (19F-NMR yield: 26%) was confirmed by 19F-NMR with 2,2,2-trifluoroethanol as an internal standard. 8-Trifluoromethyladenine was obtained as a white solid (0.02 g, yield: 10%) by preparative thin-layer chromatography.

reactant | adenine | 1.0 mmol, 0.13 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | hydrogen peroxide | OO | H2O2
catalyst | iron (II) sulfate | S(=O)(=O)([O-])[O-].[Fe+2]
solvent | dimethyl sulfoxide | 3.0 mol/l | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1N | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2.0 ml | CS(=O)C | C2H6OS
product | 8-trifluoromethyladenine | yield: 26% | FC(C1=NC2=NC=NC(=C2N1)N)(F)F | C6H4F3N5
